US07700638B2
5-(Ethoxycarbonyl)-7-(3-(hydroxymethyl)phenyl)-1-phenylbenzimidazole
This was prepared analogously to 7-(3-acetamidophenyl)-5-ethoxycarbonyl-1-phenylbenzimidazole from 5-ethoxycarbonyl-7-iodo-1-phenylbenzimidazole (2.7 g, 6.89 mmol), 3-(hydroxymethyl)phenylboronic acid (1.57 g, 10.3 mmol), 1,3-propanediol (2.5 ml, 34.4 mmol), potassium carbonate (4.75 g, 34.4 mmol) and bis(triphenylphosphin)palladium dichloride (100 mg, 0.14 mmol) in a mixture of dimethoxyethane (30 ml) and water (15 ml). The title product was obtained as an off-white solid (2.1 g, 82%) m/z, 373.2 (M+H)+.

reactant | 7-(3-acetamidophenyl)-5-ethoxycarbonyl-1-phenylbenzimidazole | C(C)(=O)NC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(=O)OCC | C24H21N3O3
reactant | 5-ethoxycarbonyl-7-iodo-1-phenylbenzimidazole | 6.89 mmol, 2.7 g | C(C)OC(=O)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)I | C16H13IN2O2
reactant | 3-(hydroxymethyl)phenylboronic acid | 10.3 mmol, 1.57 g | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | 1,3-propanediol | 34.4 mmol, 2.5 ml | C(CCO)O | C3H8O2
reactant | potassium carbonate | 34.4 mmol, 4.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 30 ml | C(OC)COC | C4H10O2
solvent | water | 15 ml | O | H2O
catalyst | bis(triphenylphosphin)palladium dichloride | 0.14 mmol, 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(Ethoxycarbonyl)-7-(3-(hydroxymethyl)phenyl)-1-phenylbenzimidazole | C(C)OC(=O)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)C1=CC(=CC=C1)CO | C23H20N2O3
